US07399759B2
2-[4-(3-Ethyl-2-oxo-1-imidazolidinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one
4-(3-Ethyl-2-oxo-1-imidazolidinyl)-2-pyridinecarbonitrile (0.16 g, 0.76 mmol) and methyl thiosalicylate (0.42 g, 2.5 mmol) was dissolved in toluene (4 ml), and triethylamine (2.0 ml, 14.3 mmol) was added thereto. The mixture was refluxed for 9 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with ethyl acetate were collected, concentrated and recrystallized from tetrahydrofuran-hexane to give the titled compound (0.14 g, 51%) as white crystals.

reactant | 4-(3-Ethyl-2-oxo-1-imidazolidinyl)-2-pyridinecarbonitrile | 0.76 mmol, 0.16 g | C(C)N1C(N(CC1)C1=CC(=NC=C1)C#N)=O | C11H12N4O
reactant | methyl thiosalicylate | 2.5 mmol, 0.42 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | triethylamine | 14.3 mmol, 2.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(3-Ethyl-2-oxo-1-imidazolidinyl)-2-pyridyl]-4H-1,3-benzothiazine-4-one | 0.14 g, 51% | C(C)N1C(N(CC1)C1=CC(=NC=C1)C=1SC2=C(C(N1)=O)C=CC=C2)=O | C18H16N4O2S
